US07125901B2
tert-Butyl [4-(2-{2-amino-5-[4-(methylsulfonyl)benzyl]-1,3-thiazol-4-yl}ethyl)phenyl]carbamate (140 mg) was dissolved in pyridine (2 ml) under N2 atmosphere. Then, ethyl chloroformate (30.2 ml) was added to the solution at 0° C. The reaction mixture was stirred at r.t. for 2 hours, and concentrated in vacuo. The residue was dissolved in AcOEt, and washed with 1N-HCl, water and brine. The organic layer was dried over anhydrous MgSO4, and concentrated in vacuo to give ethyl {4-(2-{4-[(tert-butoxycarbonyl)amino]phenyl}ethyl)-5-[4-(methylsulfonyl)benzyl]-1,3-thiazol-2-yl}carbamate (155.8 mg) as an off-white amorphous substance.

reactant | tert-Butyl [4-(2-{2-amino-5-[4-(methylsulfonyl)benzyl]-1,3-thiazol-4-yl}ethyl)phenyl]carbamate | 140 mg | NC=1SC(=C(N1)CCC1=CC=C(C=C1)NC(OC(C)(C)C)=O)CC1=CC=C(C=C1)S(=O)(=O)C | C24H29N3O4S2
reactant | ethyl chloroformate | 30.2 ml | ClC(=O)OCC | C3H5ClO2
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | ethyl {4-(2-{4-[(tert-butoxycarbonyl)amino]phenyl}ethyl)-5-[4-(methylsulfonyl)benzyl]-1,3-thiazol-2-yl}carbamate | 155.8 mg | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)CCC=1N=C(SC1CC1=CC=C(C=C1)S(=O)(=O)C)NC(OCC)=O | C27H33N3O6S2
